US07425568B2
g) 2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-ol
A solution of 2-(2-hydroxy-2-phenylethoxy)benzene-1,4-diol (1.2 g) in toluene (75 ml) was heated with Amberlyst 15 catalyst (0.5 g) under reflux for 7 hrs. After filtering the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (toluene/ethyl acetate/acetic acid=8:1:1). The yield of 2,3-dihydro-2-phenyl-benzo[1,4]dioxin-6-ol is 0.5 g. 1H NMR (DMSO-d6) δ=4.02 (dd, J=8.5, 11.4 Hz, 1H), 4.35 (dd, J=2.3, 11.4 Hz, 1H), 5.11 (dd, J=8.5, 2.3 Hz, 1H), 6.29 (dd, J=2.8, 8.5 Hz, 1H), 6.32 (d, J=2.8 Hz, 1H), 6.75 (d, J=8.5 Hz, 1H), 7.36-7.47 (m, 5H), 8.99 (s, 1H).

reactant | 2-(2-hydroxy-2-phenylethoxy)benzene-1,4-diol | 1.2 g | OC(COC1=C(C=CC(=C1)O)O)C1=CC=CC=C1 | C14H14O4
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-2-phenyl-benzo[1,4]dioxin-6-ol | C1(=CC=CC=C1)C1COC2=C(O1)C=CC(=C2)O | C14H12O3
